US05075437
To a stirred suspension of magnesium ethoxide (14.7 g) in tetrahydrofuran (250 ml) was added allyl hydrogen malonate (38.8 g) at 30° C. under nitrogen atmosphere. The resultant mixture was stirred at ambient temperature for 10 hours. To this mixture were added (3S,4R)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-methyl-2-oxo-2-(2-thioxothiazolidin-3-yl)ethyl]-2-azetidinone (24.7 g) and imidazole (8.8 g), and the mixture was allowed to heat to 60° C. for 1 hour. After evaporation of the solvent in vacuo, the residue was taken up into a mixture of ethyl acetate (300 ml) and brine (200 ml). After adjusting to pH 3.5 with concentrated hydrochloric acid at 5° C., the organic layer was separated and diluted with brine (200 ml). After adjusting to pH 8 with 30% aqueous potassium carbonate at 5° C., the organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (600 ml) eluting with a mixture of dichloromethane and acetone (19:1-1:1 v/v) to give allyl (4R)-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (19.46 g).

reactant | magnesium ethoxide | 14.7 g | [O-]CC.[Mg+2].[O-]CC
reactant | allyl hydrogen malonate | 38.8 g | C(CC(=O)O)(=O)OCC=C | C6H8O4
reactant | (3S,4R)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-methyl-2-oxo-2-(2-thioxothiazolidin-3-yl)ethyl]-2-azetidinone | 24.7 g | O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(N1C(SCC1)=S)=O)C)=O | C11H16N2O3S2
reactant | imidazole | 8.8 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | allyl (4R)-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 19.46 g | O[C@H](C)[C@@H]1[C@H](NC1=O)[C@H](C(CC(=O)OCC=C)=O)C | C13H19NO5
